US07749992B2
Step 2. Preparation of Methyl-3-trifluoromethyl-2-t-butoxycarbonylaminobenzoate
Add di-t-butyl dicarbonate (2.0 g, 9.1 mmol) to a solution of methyl-3-trifluoromethyl-2-aminobenzoate (2.0 g, 9.1 mmol) in dichloromethane (20 mL). To this mixture, add triethylamine (9.1 mmol) and stir at room temperature under an atmosphere of nitrogen for 72 h. Dilute the reaction with dichloromethane (100 mL) and wash with water (100 mL×2). Dry the separated organic phase over sodium sulfate, filter, and remove solvent under vacuum. Chromatograph the product on silica gel using hexane/ethyl acetate (gradient, 2-10% ethyl acetate/hexane) to elute. This provides the title compound as a colorless solid (1.43 g, 49%): H NMR (CDCl3, 400 MHz) δ 1.54 (s, 9H), 3.99 (s, 3H), 7.75 (dd, J=2.0, 9.2 Hz, 1H), 8.30 (d, J=1.6 Hz, 1H), 8.64 (d, J=9.2 Hz), 10.48 (s, 1H).

reactant | di-t-butyl dicarbonate | 9.1 mmol, 2.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl-3-trifluoromethyl-2-aminobenzoate | 9.1 mmol, 2.0 g | COC(C1=C(C(=CC=C1)C(F)(F)F)N)=O | C9H8F3NO2
reactant | triethylamine | 9.1 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Methyl-3-trifluoromethyl-2-t-butoxycarbonylaminobenzoate | 1.43 g, 49% | COC(C1=C(C(=CC=C1)C(F)(F)F)NC(=O)OC(C)(C)C)=O | C14H16F3NO4
